US06911476B2
Preparation of [(methylethyl)sulfonyl](2-{4-[4-(1-methyl-2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]phenoxy}propyl)amine.
[2-(4-Bromophenoxy)propyl][(methylethyl)sulfonyl]amine (200 mg, 0.595 mmol), cyclopentylboronic acid (60 mg, 0.714 mmol), ([1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex with CH2Cl2 (4 mg, 0.024 mmol), and 2M sodium hydroxide (1 mL) were combined with THF (4 mL) in a 15 ml round-bottomed flask, fitted with a condenser, and stirbar, in a temperature regulated oil bath, and refluxed at 65° C. overnight in a nitrogen system. After cooling to room temperature, the reaction mixture was quenched with 15 mL of water, and extracted three times with 15 mL ethyl acetate. The organic extractions were combined and dried with magnesium sulfate, then filtered through Celite®, and concentrated in-vacuo, yielding 210 mg viscous black oil. This material was further purified using a 4000 uM rotor on a Chromatotron in a 1:1 hexanes:ethyl acetate solvent system to provide the title compound (50 mg, 16%) as white crystals.

reactant | [2-(4-Bromophenoxy)propyl][(methylethyl)sulfonyl]amine | 0.595 mmol, 200 mg | BrC1=CC=C(OC(CNS(=O)(=O)C(C)C)C)C=C1 | C12H18BrNO3S
reactant | cyclopentylboronic acid | 0.714 mmol, 60 mg | C1(CCCC1)B(O)O | C5H11BO2
reactant | CH2Cl2 | 0.024 mmol, 4 mg | C(Cl)Cl | CH2Cl2
reactant | sodium hydroxide | 2M, 1 mL | [OH-].[Na+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
product | [(methylethyl)sulfonyl](2-{4-[4-(1-methyl-2-{[(methylethyl)sulfonyl]amino}ethoxy)phenyl]phenoxy}propyl)amine | 210 mg | CC(C)S(=O)(=O)NCC(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(CNS(=O)(=O)C(C)C)C | C24H36N2O6S2
